US06953857B2
(iii) 4-Chloro-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid
g (2.78 mmol) of 4-Chloro-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid methyl ester was dissolved in 10 ml of dioxan. 5 ml of water and 2N aqueous NaOH was added to the solution to give a pH of 13. The reaction solution was heated at 60° C. for 4 h and stirred at room temperature for 16 h. The reaction solution was cooled to 0° C. and concentrated hydrochloric acid was added to give a pH of 1-2, whereupon the product precipitated from solution. The suspension was stirred for 30 min, then the product was filtered off and dried under reduced pressure.

reactant | 4-Chloro-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid methyl ester | 2.78 mmol | COC(C1=CC(=C(C=C1)Cl)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C16H13Cl3O3
reactant | water | 5 ml | O | H2O
reactant | NaOH | 2N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | 4-Chloro-3-[2-(2,4-dichloro-phenyl)-ethoxy]-benzoic acid | ClC1=C(C=C(C(=O)O)C=C1)OCCC1=C(C=C(C=C1)Cl)Cl | C15H11Cl3O3
